US08071592B2
7-Chloro-6-{[({(3S,4S)-1-[2-(7-fluoro-2-oxo-1(2H)-quinolinyl)ethyl]-4-hydroxy-3-pyrrolidinyl}methyl)amino]methyl}-2H-pyrido[3,2-b][1,4]oxazin-3(4H)-one
A solution of 1-{2-[(3S,4S)-3-(aminomethyl)-4-hydroxy-1-pyrrolidinyl]ethyl}-7-fluoro-2(1H)-quinolinone (100 mg; 0.33 mmol) and 7-chloro-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carboxaldehyde (for a synthesis see WO2003064421, Example 15(c)) (70 mg, 0.33 mmol) in methanol (2 mL), methylene chloride (4 mL) was stirred at room temperature overnight. Sodium triacetoxyborohydride (130 mg; 0.6 mmol) was added and the mixture was stirred at room temperature for 1 hour. The reaction was evaporated and chromatographed on silica gel, eluting with 0-10% methanol-DCM-1% NH4OH to give the title compound as a solid (80 mg).

reactant | 1-{2-[(3S,4S)-3-(aminomethyl)-4-hydroxy-1-pyrrolidinyl]ethyl}-7-fluoro-2(1H)-quinolinone | 0.33 mmol, 100 mg | NC[C@H]1CN(C[C@H]1O)CCN1C(C=CC2=CC=C(C=C12)F)=O | C16H20FN3O2
reactant | 7-chloro-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carboxaldehyde | ClC1=CC=2OCC(NC2N=C1C=O)=O | C8H5ClN2O3
reactant | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
reactant | Sodium triacetoxyborohydride | 0.6 mmol, 130 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methanol | 2 mL | CO | CH4O
product | 7-Chloro-6-{[({(3S,4S)-1-[2-(7-fluoro-2-oxo-1(2H)-quinolinyl)ethyl]-4-hydroxy-3-pyrrolidinyl}methyl)amino]methyl}-2H-pyrido[3,2-b][1,4]oxazin-3(4H)-one | 80 mg | ClC1=CC=2OCC(NC2N=C1CNC[C@H]1CN(C[C@H]1O)CCN1C(C=CC2=CC=C(C=C12)F)=O)=O | C24H25ClFN5O4
